US04528393
N-(2-amino-3,5-dibromobenzyl)-trans-4-amino-1-bromo-cyclohexane hydrochloride (V)
179 g of trans-1-bromo-4-aminocyclohexane hydrochloride and 279 g of 2-amino-3,5-dibromobenzaldehyde are put into a suitable flask. The temperature rises to 60° C. and the mixture is then cooled to 35° C., after which 250 ml of ethylic alcohol are added. The solution is transferred to a suitable, steel reactor for high-pressure hydrogenizing. 10 g of Nickel-Raney are added, the reactor vessel is closed and hydrogen gas is introduced at 1000 psi. The vessel is agitated at ambient temperature for 15 minutes. The contents of the vessel are poured out and the catalyst is filtered. The ether is evaporated under vacuum. The residue is dissolved in 300 ml of absolute ethylic alcohol followed by the addition of gaseous HCl. THe desired product crystallizes and is recrystallized using absolute ethylic alcohol. 300 g of product are obtained which has a melting point of 240°-245° C.

reactant | trans-1-bromo-4-aminocyclohexane hydrochloride | 179 g | Cl.Br[C@@H]1CC[C@H](CC1)N
reactant | 2-amino-3,5-dibromobenzaldehyde | 279 g | NC1=C(C=O)C=C(C=C1Br)Br | C7H5Br2NO
reactant | hydrogen | [H][H] | H2
catalyst | Nickel | 10 g | [Ni] | Ni
product | N-(2-amino-3,5-dibromobenzyl)-trans-4-amino-1-bromo-cyclohexane hydrochloride | 300 g | Cl.NC1=C(CN[C@@H]2CC[C@H](CC2)Br)C=C(C=C1Br)Br | InChI=1S/C13H17Br3N2.ClH/c14-9-1-3-11(4-2-9)18-7-8-5-10(15)6-12(16)13(8)17;/h5-6,9,11,18H,1-4,7,17H2;1H/t9-,11-;
